US04161538
Ethyl 2-[4-(1-Ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenyl]propionate
To 200 ml of dimethyl formamide containing 6.0 g of potassium hydroxide was added 15.6 g of 2-carboethoxycyclopentanone with stirring at room temperature to give a homogeneous solution. Under ice-cooling, 25 g of ethyl 2-(p-chloromethylphenyl)propionate was added dropwise thereto, and the mixture was heated at 80° C. with stirring for 2 hours. After completion of the reaction, the reaction mixture was poured into an ice-water, extracted with ether, the extract washed with water, dried over anhydrous sodium sulfate, and the solvent removed by distillation to give 28 g of an oily substance, which was subjected to a vacuum distillation affording 21 g of the desired compound, b.p. 175°-178° C. at 0.5 mm Hg.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-carboethoxycyclopentanone | 15.6 g | C(=O)(OCC)C1C(CCC1)=O | C8H12O3
reactant | ethyl 2-(p-chloromethylphenyl)propionate | 25 g | ClCC1=CC=C(C=C1)C(C(=O)OCC)C | C12H15ClO2
solvent | dimethyl formamide | 200 ml, 6.0 g | CN(C=O)C | C3H7NO
product | Ethyl 2-[4-(1-Ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenyl]propionate | 21 g | C(C)OC(=O)C1(C(CCC1)=O)CC1=CC=C(C=C1)C(C(=O)OCC)C | C20H26O5
